US03957783
To a solution of 1.5 g of 1-methyl-4-(o-chlorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 30 ml of chloroform is added dropwise 1.62 g of sulfuryl chloride in 6 ml of chloroform. After stirring the reaction mixture for 2 hours at room temperature, the reaction mixture is neutralized with aqueous ammonia, then extracted with chloroform. The chloroform extracts are washed with water, dried, evaporated under reduced pressure to a residue to give crystals of 1-methyl-4-(o-chlorophenyl)-5-methyl-6-chloro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one, which are recrystallized from ethanol to give 1.252 g of crystals having a melting point of 199.5° - 200.5°C; yield 74.5 %.

reactant | 1-methyl-4-(o-chlorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 1.5 g | CN1C(N=C(C2=C1SC=C2C)C2=C(C=CC=C2)Cl)=O | C14H11ClN2OS
reactant | sulfuryl chloride | 1.62 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | N | H3N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-4-(o-chlorophenyl)-5-methyl-6-chloro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC(=C2C)Cl)C2=C(C=CC=C2)Cl)=O | C14H10Cl2N2OS
